US05405979
11.2 ml (80.1 mmol) of diisopropylamine is introduced at -30° C. in 260 ml of absolute tetrahydrofuran under protective gas and mixed with 1.8 ml of a 1.6 molar n-butyllithium solution in hexane. Then, the solution is stirred for one hour at 0° C. After instillation of a solution of 10 g of 3,3;17,17-bis-(ethylenedioxy)-5-estren-11-one in 130 ml of absolute tetrahydrofuran, it is stirred for deprotonation for 45 more minutes at 0° C., then the reaction mixture is cooled down to -78° C. and mixed with 13 ml of trifluoromethanesulfonic acid anhydride by slow instillation. After 2.5 more hours of stirring at -78° C., the reaction mixture is poured on saturated sodium bicarbonate solution and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. After chromatography of the crude product on silica gel with a mixture of ethyl acetate/hexane, besides 2.4 g of 3,3;17,17-bis-(ethylenedioxy)-5-estren-11-one, 5.9 g of 3,3;17,17-bis-(ethylenedioxy)-11-trifluoromethylsulfonyloxy-5,11-estradiene is obtained as white foam.

reactant | diisopropylamine | 80.1 mmol, 11.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 molar | C(CCC)[Li]
reactant | 17,17-bis-(ethylenedioxy)-5-estren-11-one | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3[C@H]1C(C4)=O | C22H30O5
reactant | trifluoromethanesulfonic acid anhydride | 13 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 17,17-bis-(ethylenedioxy)-11-trifluoromethylsulfonyloxy-5,11-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3[C@H]1C(=C4)OS(=O)(=O)C(F)(F)F | C23H29F3O7S
